US04499102
1-[[(1-Carboxy-3-phenylpropyl)amino]acetyl]-5-(2-hydroxyphenyl)-2-pyrrolidinecarboxylic acid (compound 99)
1-(Chloroacetyl)-5-(2-hydroxyphenyl)-2-pyrrolidinecarboxylic acid [mp 204°-206° C.(dec.), [α]D24 +24.5° (c=1.2, MeOH)] (2.8 g) was added to a stirred solution of 2-amino-4-phenylbutanoic acid (1.8 g) in N sodium hydroxide (40 ml). The reaction mixture was stirred overnight at room temperature. The solution was adjusted to pH 1.5 by 20% hydrochloric acid, and washed with ethyl acetate. The aqueous layer was adjusted to pH 3.0, and the separated solid was collected by filtration to give 1.0 g (24%) of the titled compound. IR (nujol, cm-1): 3425, 1735, 1625, 1588.

reactant | 1-(Chloroacetyl)-5-(2-hydroxyphenyl)-2-pyrrolidinecarboxylic acid | 2.8 g | ClCC(=O)N1C(CCC1C1=C(C=CC=C1)O)C(=O)O | C13H14ClNO4
reactant | 2-amino-4-phenylbutanoic acid | 1.8 g | NC(C(=O)O)CCC1=CC=CC=C1 | C10H13NO2
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 40 ml | [OH-].[Na+]
product | 1-[[(1-Carboxy-3-phenylpropyl)amino]acetyl]-5-(2-hydroxyphenyl)-2-pyrrolidinecarboxylic acid | 1.0 g, 24% | C(=O)(O)C(CCC1=CC=CC=C1)NCC(=O)N1C(CCC1C1=C(C=CC=C1)O)C(=O)O | C23H26N2O6
